US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with 2,5,8,11,14-pentaoxahexadecan-16-ol to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-(2-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy}-ethoxy)-ethyl ester, hydrochloride. MS (ES+) m/z calcd. for C42H52Cl2F2N3O9: [(M+H)+]851. found: 851.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | 2,5,8,11,14-pentaoxahexadecan-16-ol | COCCOCCOCCOCCOCCO | C11H24O6
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-(2-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy}-ethoxy)-ethyl ester, hydrochloride | Cl.COCCOCCOCCOCCOCCOC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O | InChI=1S/C42H51Cl2F2N3O9.ClH/c1-41(2,3)25-35-42(26-47,30-11-10-28(43)24-32(30)45)36(29-7-6-8-31(44)37(29)46)38(49-35)39(50)48-33-12-9-27(23-34(33)53-5)40(51)58-22-21-57-20-19-56-18-17-55-16-15-54-14-13-52-4;/h6-12,23-24,35-36,38,49H,13-22,25H2,1-5H3,(H,48,50);1H/t35-,36-,38+,42-;/m0./s1
